US08293768B2
Synthesis of 4-methyl-2-(5-oxo-1-(4,4,4-trifluorobutyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylic acid
Following the procedure as described in Example 20, making variation as required to replace ethyl 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate with ethyl 4-methyl-2-(5-oxo-1-(4,4,4-trifluorobutyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate, the title compound was obtained as a white solid in 84% yield: MS (ES−) m/z 335.2 (M−1).

reactant | ethyl 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C=NN(C1=O)CC1=CC=C(C=C1)C(F)(F)F | C17H15F3N4O3S
reactant | ethyl 4-methyl-2-(5-oxo-1-(4,4,4-trifluorobutyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C=NN(C1=O)CCCC(F)(F)F | C13H15F3N4O3S
product | 4-methyl-2-(5-oxo-1-(4,4,4-trifluorobutyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylic acid | 84% yield | CC=1N=C(SC1C(=O)O)N1C=NN(C1=O)CCCC(F)(F)F | C11H11F3N4O3S
